US05101048
Preparation of O-2-trifluoromethylphenyl dimethylthiocarbamate
If the procedure described in Preparation XI is followed starting from 3.95 g (24.3.10-3 mol) of 2-trifluoromethylphenol, 1.43 g (25.6.10-3 mol) of potassium hydroxide and 3.46 g (28.10-3 mol) of dimethylthiocarbamoyl chloride, 5.37 g (yield: 89%) of a yellow oil are obtained.

reactant | 2-trifluoromethylphenol | 3.95 g | FC(C1=C(C=CC=C1)O)(F)F | C7H5F3O
reactant | potassium hydroxide | 1.43 g | [OH-].[K+]
reactant | dimethylthiocarbamoyl chloride | 28.10-3 mol, 3.46 g | CN(C(=S)Cl)C | C3H6ClNS
product | O-2-trifluoromethylphenyl dimethylthiocarbamate | 5.37 g, yield: 89% | CN(C)C(=S)OC1=CC=CC=C1C(F)(F)F | C10H10F3NOS
